US05437815
40 g of aluminum chloride and 280 ml of carbon disulfide were taken into a flask, cooled with an ice-salt bath to 0° C. or lower and stirred. A solution of 70 g of 4-bromo-2-fluorobiphenyl as dissolved in 180 ml of carbon disulfide was dropwise added thereto. A solution of 26 g of propionic acid chloride as dissolved in 100 ml of carbon disulfide was dropwise added thereto at 0° C. or lower. After addition, the whole was stirred for 2 hours at 0° C. or lower and then at room temperature overnight. After reaction, the reaction solution was poured into 30 ml of concentrated hydrochloric acid and 300 g of ice and extracted with chloroform. The organic layer was washed three times with water, two times with an aqueous 2% sodium hydroxide solution and then three times with water, and chloroform and carbon disulfide were removed by distillation. The residue was recrystallized from a mixed solvent comprising acetone and methanol to obtain 29 g of 2-fluoro-4-bromo-4'-propionylbiphenyl.

reactant | aluminum chloride | 40 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-bromo-2-fluorobiphenyl | 70 g | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
reactant | propionic acid chloride | 26 g | C(CC)(=O)Cl | C3H5ClO
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | carbon disulfide | 180 ml | C(=S)=S | CS2
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
solvent | carbon disulfide | 280 ml | C(=S)=S | CS2
product | 2-fluoro-4-bromo-4'-propionylbiphenyl | 29 g | FC1=C(C=CC(=C1)Br)C1=CC=C(C=C1)C(CC)=O | C15H12BrFO
